US07750003B2
1-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]piperidin-4-amine
tert-Butyl N-[1-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-4-piperidyl]carbamate (1.30 g, 2.77 mmol) was dissolved in methanol (10 mL). 4M Hydrochloric acid in dioxane (10 mL) was added. The reaction was stirred at RT for 3 hours. Saturated aqueous sodium bicarbonate was added until pH7 was reached and the organic solvents were removed in vacuo. Water (20 mL) was added and the product was extracted into ethyl acetate (50 mL). The aqueous layer was extracted with a second portion of ethyl acetate (25 mL). The combined organics were evaporated to give the desired material as a yellow foam (1.05 g).

reactant | tert-Butyl N-[1-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-4-piperidyl]carbamate | 2.77 mmol, 1.30 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)N1CCC(CC1)NC(OC(C)(C)C)=O | C21H35N5O5S
reactant | Hydrochloric acid | 4M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]piperidin-4-amine | 1.05 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)N1CCC(CC1)N | C16H27N5O3S
